US04742060
0.2 g of sodium hydride 60% in oil was added to a solution of 1.3 g of 1-(2-chloro-5-pyridylmethyl)-2-nitromethyleneimidazolidine in 15 ml of dry dimethylformamide, and the mixture was stirred at room temperature until the generation of hydrogen gas ceased. 0.9 g of 4-chlorobenzenesulfenylchloride was then drop into the solution at 0° C. with stirring. After stirring for 1 hour at room temperature, the reaction mixture was poured into ice water. The precipitated crystal was filtered and recrystalized from ethyl acetate to give 1-(2-chloro-5-pyridylmethyl)-2-{(4-chlorophenylthio)nitromethylene}imidazolidine. The yield was 1.3 g.

reactant | sodium hydride | 0.2 g | [H-].[Na+]
reactant | 1-(2-chloro-5-pyridylmethyl)-2-nitromethyleneimidazolidine | 1.3 g | ClC1=NC=C(C=C1)CN1C(NCC1)=C[N+](=O)[O-] | C10H11ClN4O2
reactant | hydrogen | [H][H] | H2
reactant | 4-chlorobenzenesulfenylchloride | 0.9 g | ClC1=CC=C(C=C1)SCl | C6H4Cl2S
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 1-(2-chloro-5-pyridylmethyl)-2-{(4-chlorophenylthio)nitromethylene}imidazolidine | ClC1=NC=C(C=C1)CN1C(NCC1)=C([N+](=O)[O-])SC1=CC=C(C=C1)Cl | C16H14Cl2N4O2S
